US05478939
(S,S)-2-Methyl-5-(3-methyl-1,2,4-thiadiazol-5-yl)-2,5-diazabicyclo[2.2.1]heptane
A solution of 1.04 g of 5-chloro-3-methyl-1,2,4-thiadiazole, prepared by the procedure of J. Goerdeler, Chim. Ber., 1957, 90, 182, in 2 ml of tetrahydrofuran is added over one hour to a solution of 0.825 g of (S,S)-2-methyl-2,5-diazabicyclo[2.2.1]heptane and 0.77 g of potassium carbonate in 10 ml of tetrahydrofuran. The reaction mixture is stirred at room temperature overnight, diluted with methylene chloride and the organic layer is washed with water. The methylene chloride solution is dried and concentrated in vacuo to dryness. The residue is purified by chromatography (aluminum oxide, Activity Grade 2.5: 2% methyl alcohol/methylene chloride) to give 0.56 g of the desired product:

reactant | 5-chloro-3-methyl-1,2,4-thiadiazole | 1.04 g | ClC1=NC(=NS1)C | C3H3ClN2S
reactant | (S,S)-2-methyl-2,5-diazabicyclo[2.2.1]heptane | 0.825 g | CN1[C@@H]2CN[C@H](C1)C2 | C6H12N2
reactant | potassium carbonate | 0.77 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (S,S)-2-Methyl-5-(3-methyl-1,2,4-thiadiazol-5-yl)-2,5-diazabicyclo[2.2.1]heptane | 0.56 g | CN1[C@@H]2CN([C@H](C1)C2)C2=NC(=NS2)C | C9H14N4S
